US09085583B2
Tert-butyl((4-ethyl-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamate (1.00 g, 3.75 mmol) was dissolved in a solution of hydrogen chloride in 1,4-dioxane (20 mL). The mixture was stirred for 2 hr. The reaction mixture was filtered. The residue was washed with dichloromethane, dried to afford 3-(aminomethyl)-4-ethyl-6-methylpyridin-2(1H)-one hydrochloride (593 mg, 77.9%) as a light yellow solid. LRMS (M+H+) m/z: calcd 166.11. found 167.1. 1H NMR (400 MHz, D2O): δ ppm 6.31 (s, 1 H), 4.06 (s, 2 H), 2.57 (q, J=7.86 Hz, 2 H), 2.25 (s, 3 H), 1.10 (t, J=7.53 Hz, 3 H).

reactant | Tert-butyl((4-ethyl-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamate | 3.75 mmol, 1.00 g | C(C)(C)(C)OC(NCC=1C(NC(=CC1CC)C)=O)=O | C14H22N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(aminomethyl)-4-ethyl-6-methylpyridin-2(1H)-one hydrochloride | 593 mg, 77.9% | Cl.NCC=1C(NC(=CC1CC)C)=O | InChI=1S/C9H14N2O.ClH/c1-3-7-4-6(2)11-9(12)8(7)5-10;/h4H,3,5,10H2,1-2H3,(H,11,12);1H
